US06013651
Scheme II illustrates methodology useful for preparing the ethyl N-gly-amino-3-(3,5-dihalo-2-hydroxy) phenyl propionate portion of the present invention which can be coupled to the tetrahydropyrimidinobenzoic acid moiety. Briefly, 3,5-halo substituted salicylaldehydes may be prepared by direct halogenation as, for example, would be the case where 5-bromosalicylaldehyde is slurried in acetic acid and an equivalent or more of chlorine is added to yield 3-chloro-5-bromo-2-hydroxybenzaldehyde. Some product precipitates and can be recovered by filtration. The remainder may be recovered by diluting the filtrate with water and isolating the precipitate. Combining the solids and drying gives 3-chloro-5-bromo-2-hydroxybenzaldehyde. 3-iodo-5-chlorosalicycaldehyde may be prepared by reacting 5-chlorosalicylaldehyde with N-iodosuccinimide in DMF and subjecting the reaction mixture to usual work-up conditions. 3-iodo-5-bromosalicylaldehyde may be prepared by reacting 5-bromosalicylaldehyde in acetonitrile with potassium iodide and chloramine T. Work-up gives a material that when treated with hexanes gives the desired 3-iodo-5-chlorosalicylaldehyde.

reactant | 5-chlorosalicylaldehyde | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
reactant | 3-iodo-5-bromosalicylaldehyde | IC1=C(C(C=O)=CC(=C1)Br)O | C7H4BrIO2
reactant | 5-bromosalicylaldehyde | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | potassium iodide | [I-].[K+]
reactant | chloramine T | CC=1C=CC(=CC1)S(=O)(=O)NCl | C7H8ClNO2S
solvent | DMF | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-iodo-5-chlorosalicylaldehyde | IC1=C(C(C=O)=CC(=C1)Cl)O | C7H4ClIO2
